Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
OxyContin
 
Attending: ___.
 
Chief Complaint:
Fall with headstrike and LOC
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male on Aspirin 81mg who presented to OSH today s/p 
fall in his driveway. +head strike and LOC. He does not remember 
the fall, but remembers waking up to have the ambulance there. 
CT scan showed 9mm acute right frontal lobe IPH, 7mm R 
cerebellar hemorrhage, and chronic subdural collections. He was 
transferred to ___ for neurosurgery evaluation. He notes 
multiple falls recently, with a significant fall last ___ 
causing residual dysarthria. He complains of mild headache. 
Denies fever, nausea, vomiting, vision changes, numbness, new 
weakness. 
 
Past Medical History:
-Aortic aneurysm 
-Hypertension
-Hypothyroidism 

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
ADMISSION EXAM:
===============
O: T: 98.6 BP: 154/74    HR:98    R:18       O2Sats:97%RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 3->2       EOMs intact
Neck: Supple.
Lungs: non-labored breathing
Cardiac: RRR. 
Abd: Soft, NT.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
 + dysarthria.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout except L delt ___
(rotator cuff injury). No pronator drift (unable to test L d/t
reported rotator cuff injury)

Sensation: Intact to light touch bilaterally.

Coordination: normal on finger-nose-finger

DISCHARGE EXAM:
===============
PHYSICAL EXAM:
VITALS: 
97.9, 130/75, 98, 20 100% RA
BP: 130-153/74-100

GENERAL: Alert, oriented sitting in bed comfortably
HEENT: Sclerae anicteric, dry MMs, oropharynx clear  
NECK: Supple, JVP not elevated, no LAD  
RESP: CTAB 
CV: Regular rate, S1 + S2, no MRG 
ABD: +BS, soft, non-distended, non-tender no guarding, no 
rebound
GU: no foley  
EXT: WWP, 2+ pulses, no pitting edema  
NEURO: noted for weakness in the left shoulder (rotator cuff 
injury), dysdiadochokinesia with upper extremities. 

 
Pertinent Results:
Labs on admission:
===============
___ 09:44PM BLOOD WBC-9.5 RBC-4.55* Hgb-14.9 Hct-43.2 
MCV-95 MCH-32.7* MCHC-34.5 RDW-12.9 RDWSD-44.0 Plt ___
___ 09:44PM BLOOD Neuts-80.8* Lymphs-12.5* Monos-5.8 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-7.69* AbsLymp-1.19* 
AbsMono-0.55 AbsEos-0.00* AbsBaso-0.04
___ 09:44PM BLOOD ___ PTT-29.9 ___
___ 09:44PM BLOOD Glucose-124* UreaN-16 Creat-1.3* Na-140 
K-4.2 Cl-104 HCO3-25 AnGap-15
___ 09:44PM BLOOD Calcium-9.6 Phos-3.0 Mg-1.9

Labs on discharge:
==============
___ 04:45AM BLOOD VitB12-599
___ 04:45AM BLOOD %HbA1c-5.2 eAG-103
___ 09:44PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:45AM BLOOD WBC-6.3 RBC-4.40* Hgb-14.5 Hct-41.3 
MCV-94 MCH-33.0* MCHC-35.1 RDW-12.7 RDWSD-43.8 Plt ___
___ 04:45AM BLOOD Glucose-81 UreaN-12 Creat-1.0 Na-139 
K-3.4 Cl-104 HCO3-23 AnGap-15
___ 04:45AM BLOOD Calcium-9.1 Phos-3.0 ___

Imaging:
=======
 Portable Chest xray AP
IMPRESSION:    
Left base opacity which could be due to consolidation from 
infection or 
aspiration versus atelectasis.  Dedicated PA and lateral views 
would be 
helpful for further evaluation if/when patient able. 

___ Non-contrast Head CT:
IMPRESSION:   
1. Interval increase subarachnoid hemorrhage overlying right 
cerebellum. 
2. Stable inferior right frontal intraparenchymal hemorrhage. 
3. Prominence of the bilateral extra-axial spaces may partially 
represent 
chronic bilateral subdural hemorrhages versus involutional 
changes. 
4. Complete opacification of the left sphenoid sinus with 
central high density 
material may represent inspissated secretions or fungal 
colonization.  
Thickening of the walls of the sphenoid sinus suggests chronic 
sinusitis. 
5. Evolving right parietal scalp soft tissue swelling and 
hematoma. 

___ Chest Xray PA and Lat
IMPRESSION:    
Rapidly improving left lower lobe opacity favors atelectasis or 
aspiration over an infectious pneumonia. 

___ CTA Head
IMPRESSION:   
1. Study is limited due to poor bolus tracking.  Allowing for 
the limitations, intracranial arteries appear unremarkable. 
2. Right cerebellum subarachnoid hemorrhage, right frontal 
intraparenchymal hemorrhage, and prominent bifrontal subdural 
space are similar to 14 hr ago. 

 
Brief Hospital Course:
___ male with AAA, hypertension, hypothyroidism with h/o 
multiple falls who presented s/p fall on ___ found to have small 
intracerebral hemorrhage and chronic subdural collections. 

# Falls complicated by cerebellar SAH, frontal IPH, and chronic 
SDH:  Pt presented s/p mechanical fall on ___.  Serial CT scans 
show small stable cerebellar SAH, frontal IPH, and chronic SDH 
that was non-operative per neurosurgery. He has had multiple 
falls with a significant one ___ resulting in residual 
dysarthria. He reports he falls at least once monthly (inside 
and outside), often when turning. Of note, he has been evaluated 
by neurology in the recent past and he is undergoing a workup 
for a possible neurodegenerative disorder as the etiology of his 
falls (provider documents in physical chart and faxed to 
neurology/concussion clinic).  He was evaluated by ___ and OT who 
recommended discharge home with ___. He was provided with a 
walker prior to discharge for improved gait stability and fall 
prevention. He will follow up with PCP, neurology/concussion 
clinic, and neurosurgery. He will have a repeat CT head ___. 

# Post-concussive syndrome: Mental status exam notable for 
diminished attention and recall. Also noted on OT assessment. ___ 
assessment notable for impaired visual function, balance and 
coordination likely due to central vestibular dysfunction given 
known location of injury.  As above, pt will have ___ at home 
with a new walker and will follow up with the 
___ clinic and neurosurgery as outpatient. 

# Possible aspiration:  CXR on admission with possible evidence 
of aspiration prompted a speech and swallow consult.  Bedside 
speech and swallow evaluation demonstrated "soft signs of 
aspiration" and a diet of regular solids and nectar thick 
liquids was recommended.  Of note, pt did not demonstrate any 
clinical evidence of pneumonia or aspiration pneumonitis during 
his hospital course.  

# Hypertension:  Continued home lisinopril and metoprolol.

# Hypothyroidism: Continued home Levothyroxine.

# Possible CAD:  Despite neurosurgery clearance for restarting 
aspirin, held home aspirin at discharge given prescribed for 
primary prevention.  Pt and family denies history of MI or PCI.  


TRANSITIONAL ISSUES:
====================
[ ] Repeat head CT ___
[ ] Follow up with PCP, neurology/concussion clinic, and 
neurosurgery
[ ] Held home baby aspirin at discharge given prescribed for 
primary prevention, consider restarting at follow up 
[ ] Home OT and ___, as well as new walker for stability and fall 
prevention 
[ ] Diet: regular solids, nectar thick liquids
 
Medications on Admission:
Aspirin 81 mg daily
Lisinopril 10 mg daily
Metoprolol ER 25 mg daily
Levothyroxine 25 mg daily 
 
Discharge Medications:
1. Levothyroxine Sodium 25 mcg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Walker
Rolling walker
ICD-9 781.2  ICD-10 R26.81
Prognosis: Good
Length of need: 13 months
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
6. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 packet by mouth 
once a day Disp #*30 Packet Refills:*0
7. Senna 17.2 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0
8. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
#Right frontal intraparenchymal hemorrhage
#Subarachnoid hemorrhage 
#Chronic bilateral subdural hemorrhages 
#Gait instability
#Multiple falls
#Post-concussion syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of your during your stay at ___. 
 You presented after a fall and were found to have small areas 
of bleeding around and in your brain, as well as old blood 
around your brain from previous falls.  Multiple CT scans of 
your head showed that the bleeding was stable.  You were 
evaluated by the neurosurgeons who determined that the bleeding 
was non-operative.  Given your multiple recent falls and 
evidence of post-concussion syndrome, a referral to the 
concussion clinic at ___ was arranged.  In addition, you will 
follow up with your PCP and neurosurgery after discharge. 

The following are recommendations from neurosurgery:

Activity
========
•       We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
===========
•Please do NOT take any blood thinning medication (Ibuprofen, 
Plavix, Coumadin) until cleared by the neurosurgeon. Please 
continue to hold your home baby aspirin given it is for primary 
prevention. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
========================
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
==========
•Headache is one of the most common symptom after a brain 
bleed. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
===============================================
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
=================
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

Please follow up with your scheduled appointments.  You will 
have a repeat CT of your head scheduled for ___.

Best wishes,
Your ___ team

 
Followup Instructions:
___